US04057573
Analogously to the description in Example 2, 4.7 g of 5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester and 20 ml of N sodium hydroxide solution in 50 ml of methanol give 5-benzoyl-6-methoxy-indane-1-carboxylic acid of melting point 126°-128° C (from ether-petroleum ether).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-benzoyl-6-methoxy-indane-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C=1C=C2CCC(C2=CC1OC)C(=O)O | C18H16O4
reactant | methanol | 50 ml | CO | CH4O
product | 5-benzoyl-6-methoxy-indane-1-carboxylic acid methyl ester | 4.7 g | COC(=O)C1CCC2=CC(=C(C=C12)OC)C(C1=CC=CC=C1)=O | C19H18O4
